US09260397B2
3-(2-carboxyethyl)-1-(4-nitrophenyl)imidazolium bromide
According to the general synthesis procedure, 0.756 mmol (0.250 g) 1-(4-nitrophenyl)imidazole and 0.756 mmol (0.115 g) 3-bromopropionic acid are dissolved in 5 ml THF and heated for 17 h to 90° C.

reactant | 1-(4-nitrophenyl)imidazole | 0.756 mmol, 0.250 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C=NC=C1 | C9H7N3O2
reactant | 3-bromopropionic acid | 0.756 mmol, 0.115 g | BrCCC(=O)O | C3H5BrO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-(2-carboxyethyl)-1-(4-nitrophenyl)imidazolium bromide | [Br-].C(=O)(O)CCN1C=[N+](C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C12H11N3O4.BrH/c16-12(17)5-6-13-7-8-14(9-13)10-1-3-11(4-2-10)15(18)19;/h1-4,7-9H,5-6H2;1H
